### ISSUE TITLE
fun_cases does not unfold function

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#10775]
Consider
```

opaque R : (n m : Int) → Type

axiom mkR : Nat → R n m

def d : ∀ (n m : Int), R n m
  | .ofNat n, .ofNat m => mkR 0
  | .negSucc n, .negSucc m => mkR 0
  | .negSucc 0, .ofNat 0 => mkR 0
  | .ofNat _, .negSucc _ => mkR 0
  | .negSucc _, .ofNat _ => mkR 0

/--
error: unsolved goals
case refine_1
⊢ ∀ (n m : Nat), ¬↑n + 1 = ↑m → mkR 0 = mkR 0

case refine_2
⊢ ∀ (n m : Nat), ¬Int.negSucc n + 1 = Int.negSucc m → mkR 0 = mkR 0

case refine_3
⊢ ¬0 = 0 → mkR 0 = mkR 0

case refine_4
⊢ ∀ (a a_1 : Nat), ¬↑a + 1 = Int.negSucc a_1 → mkR 0 = mkR 0

case refine_5
⊢ ∀ (a a_1 : Nat), (a = 0 → a_1 = 0 → False) → ¬Int.negSucc a + 1 = ↑a_1 → mkR 0 = mkR 0
-/
#guard_msgs in
example : (n m : Int) → (hnm : n + 1 ≠ m) → d n m = mkR 0 := by
  refine d.fun_cases_unfolding (motive := fun n m r => (n + 1 ≠ m) → r = mkR 0)
    ?_ ?_ ?_ ?_ ?_ <;> dsimp

/--
error: unsolved goals
case case1
n✝ m✝ : Nat
hnm : Int.ofNat n✝ + 1 ≠ Int.ofNat m✝
⊢ d (Int.ofNat n✝) (Int.ofNat m✝) = mkR 0

case case2
n✝ m✝ : Nat
hnm : Int.negSucc n✝ + 1 ≠ Int.negSucc m✝
⊢ d (Int.negSucc n✝) (Int.negSucc m✝) = mkR 0

case case3
hnm : Int.negSucc 0 + 1 ≠ Int.ofNat 0
⊢ d (Int.negSucc 0) (Int.ofNat 0) = mkR 0

case case4
a✝¹ a✝ : Nat
hnm : Int.ofNat a✝¹ + 1 ≠ Int.negSucc a✝
⊢ d (Int.ofNat a✝¹) (Int.negSucc a✝) = mkR 0

case case5
a✝¹ a✝ : Nat
x✝ : a✝¹ = 0 → a✝ = 0 → False
hnm : Int.negSucc a✝¹ + 1 ≠ Int.ofNat a✝
⊢ d (Int.negSucc a✝¹) (Int.ofNat a✝) = mkR 0
-/
#guard_msgs in
example : (n m : Int) → (hnm : n + 1 ≠ m) → d n m = mkR 0 := by
  intros n m hnm
  fun_cases d

/--
error: unsolved goals
case case1
n✝ m✝ : Nat
hnm : Int.ofNat n✝ + 1 ≠ Int.ofNat m✝
⊢ d (Int.ofNat n✝) (Int.ofNat m✝) = mkR 0

case case2
n✝ m✝ : Nat
hnm : Int.negSucc n✝ + 1 ≠ Int.negSucc m✝
⊢ d (Int.negSucc n✝) (Int.negSucc m✝) = mkR 0

case case3
hnm : Int.negSucc 0 + 1 ≠ Int.ofNat 0
⊢ d (Int.negSucc 0) (Int.ofNat 0) = mkR 0

case case4
a✝¹ a✝ : Nat
hnm : Int.ofNat a✝¹ + 1 ≠ Int.negSucc a✝
⊢ d (Int.ofNat a✝¹) (Int.negSucc a✝) = mkR 0

case case5
a✝¹ a✝ : Nat
x✝ : a✝¹ = 0 → a✝ = 0 → False
hnm : Int.negSucc a✝¹ + 1 ≠ Int.ofNat a✝
⊢ d (Int.negSucc a✝¹) (Int.ofNat a✝) = mkR 0
-/
#guard_msgs in
example : (n m : Int) → (hnm : n + 1 ≠ m) → d n m = mkR 0 := by
  intros n m hnm
  cases n, m using d.fun_cases_unfolding
```

I’d expect the second and third example to produce the same goals as the first example.

**Comment by nomeata** [comment]
The issue appears to be with `cases` instantiating the motive correctly in the presence of complex arguments (#8096)

**Comment by nomeata** [comment]
Investigation:

We get

```
[Elab.induction] setMotiveArg: trying to abstract over d n m, expected type R x✝¹ x✝ 
[Elab.induction] Not abstracting goal over d n m, its type R n m does not match the expected R x✝¹ x✝ 
```

We get this only with `induction`, not with `cases`. Presumably because `induction` instantiates the eliminator with the actual variables mentioned in the goal, while `cases` introduces new variables and equalities.


Right now the motive when using `cases` seems to be
```
fun x x_1 x_2 => n = x → m = x_1 → d n m = mkR 0
```
so maybe we want
```
fun x x_1 x_2 => n = x → m = x_1 → d n m = x_2 → d n m = mkR 0
```
here? 

But since `induction … using` (unfortunately not `fun_induction`) works I’m inclined to leave this on the backlog for now.

**Comment by nomeata** [comment]
Possible duplicate of #8213
